US04788010
(C) α-[(1-Oxo-3,3-dicyclohexylpropyl)amino]acetic acid, 1,1-dimethylethyl ester
A stirred solution of 3,3-dicyclohexylpropionyl chloride (6.1 g, 0.063 mol) in 70 ml of chloroform was treated portionwise at 7°-12° C. with a solution of 8.3 g (0.063 mol) of glycine tert-butyl ester and 8.9 ml (0.064 mol) of triethylamine in 30 ml of chloroform. After the addition, the solution was stirred at room temperature for 2 hours, kept overnight, refluxed for 0.5 hours, cooled, washed with water (5×25 ml), dried (magnesium sulfate), and the solvent removed on a rotary evaporator, to give a light yellow viscous oil. The latter, which crystallized partly on standing, was dissolved in 50 ml of boiling hexane, cooled, seeded, and rubbed; a crystalline solid gradually separated. After crystallizing at room temperature and cooling overnight, the voluminous colorless solid was filtered, washed with cold hexane and air-dried (13.3 g, melting point 72°-74° C. s, 69° C.).

reactant | 3,3-dicyclohexylpropionyl chloride | 0.063 mol, 6.1 g | C1(CCCCC1)C(CC(=O)Cl)C1CCCCC1 | C15H25ClO
reactant | glycine tert-butyl ester | 0.063 mol, 8.3 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | triethylamine | 0.064 mol, 8.9 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | α-[(1-Oxo-3,3-dicyclohexylpropyl)amino]acetic acid, 1,1-dimethylethyl ester | O=C(CC(C1CCCCC1)C1CCCCC1)NCC(=O)OC(C)(C)C | C21H37NO3
